US07501414B2
[2-(4-Fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester
To a stirred solution of carbamic acid tert-butyl ester (0.22 g) in acetonitrile (6 mL) was added in sequence at 0° C.: Sodium hydroxide (52 mg) in water (5 mL); after 2 minutes tert-butyl hypochlorite (139 μL); after 10 minutes potassium osmate(VI) dihydrate (9 mg) in water (1 mL); after 1 minute hydroquinine (anthraquinone-1,4-diyl)diether (26 mg) in acetonitrile (4 mL); after 3 minutes acetonitrile (6.7 mL) and phosphate buffer (3.3 mL, 0.5 M pH 7.65); after 5 minutes enough sodium biphosphate monohydrate to make pH=7.65; and finally 4-fluorostyrene. The reaction was quenched after stirring 3 hours at 25° C. with sodium sulfite (0.20 g) in water (2 mL) at 0° C. The phases were-separated and the aqueous layer extracted with ethyl acetate (3×20 mL). The combined organic phases were washed with water (1×50 mL), dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 90 mg (57%) of the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3): 1.45 (s, 9H), 3.18 (m, 1H), 3.23 (m, 1H), 3.44 (m, 1H), 4.83 (m, 1H), 4.92 (b, 1H), 7.04 (t, 2H), 7.34 (m, 2H).

reactant | carbamic acid tert-butyl ester | 0.22 g | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | Sodium hydroxide | 52 mg | [OH-].[Na+]
reactant | tert-butyl hypochlorite | 139 μL | ClOC(C)(C)C | C4H9ClO
reactant | phosphate | 0.5 M, 3.3 mL, pH 7.65 | P(=O)([O-])([O-])[O-]
reactant | 4-fluorostyrene | FC1=CC=C(C=C)C=C1 | C8H7F
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | potassium osmate(VI) dihydrate | 9 mg | O.O.[O-][Os](=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 6.7 mL | C(C)#N | C2H3N
product | [2-(4-Fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 90 mg, 57% | C(C)(C)(C)OC(NCC(O)C1=CC=C(C=C1)F)=O | C13H18FNO3
